US07528143B2
(2-Chloro-5-methyl-pyrimidin-4-yl)-(4-chloro-3-trifluoromethyl-phenyl)-amine (Intermediate 37)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.30 g, 2.1 mmol), 4-bromo-1-chloro-2-trifluoromethyl-benzene (0.40 mL, 2.7 mmol), Pd2(dba)3 (0.10 g, 0.11 mmol), Xantphos (0.13 g, 0.22 mmol) and cesium carbonate (1.5 g, 4.6 mmol) in dioxane/DMF (6/1, 7 mL) was sealed in a microwave reaction tube and irradiated with microwave at 160° C. for 15 min. After cooling to room temperature, the cap was removed and the resulting mixture filtered and the filtered solid washed with DCM. The filtrate was concentrated and the residue purified by flash chromatography on silica gel (hexanes to 50% EtOAc/hexanes) to afford the title compound (0.65 g, 96%) as a white solid. MS (ES+): m/z 322 (M+H)+.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 2.1 mmol, 0.30 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-bromo-1-chloro-2-trifluoromethyl-benzene | 2.7 mmol, 0.40 mL | BrC1=CC(=C(C=C1)Cl)C(F)(F)F | C7H3BrClF3
reactant | Xantphos | 0.22 mmol, 0.13 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 4.6 mmol, 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane DMF | 7 mL | O1CCOCC1.CN(C)C=O
catalyst | Pd2(dba)3 | 0.11 mmol, 0.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Chloro-5-methyl-pyrimidin-4-yl)-(4-chloro-3-trifluoromethyl-phenyl)-amine | 0.65 g, 96% | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C | C12H8Cl2F3N3
